US06437125B1
Preparation of 5-[2-(2-Aminopurin-9-yl)ethyl]-2,2-dimethyl-1,3-dioxane
A mixture of 5-[2-(2-amino-6-chloropurin-9-yl)]ethylidene-2,2-dimethyl-1,3-dioxane (0.45 g), 5% palladium on carbon (0.225 g) and triethylamine (0.22 ml) in ethyl acetate (22.5 ml) was hydrogenated at 50° C. for 18 hours at 50 p.s.i. The catalyst was removed by filtration and the filter washed with ethyl acetate. The combined filtrate and wash were concentrated under reduced pressure to give a gum which was purified by silica gel chromatography (eluted with dichloromethane/methanol 99:1 increasing to 97:3) to give the title compound (300 mg, 74% yield).

reactant | 5-[2-(2-amino-6-chloropurin-9-yl)]ethylidene-2,2-dimethyl-1,3-dioxane | 0.45 g | NC1=NC(=C2N=CN(C2=N1)CC=C1COC(OC1)(C)C)Cl | C13H16ClN5O2
reactant | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 0.225 g | [Pd] | Pd
solvent | ethyl acetate | 22.5 ml | C(C)(=O)OCC | C4H8O2
product | 5-[2-(2-Aminopurin-9-yl)ethyl]-2,2-dimethyl-1,3-dioxane | 300 mg, 74% yield | NC1=NC=C2N=CN(C2=N1)CCC1COC(OC1)(C)C | C13H19N5O2
